US05773530
To a solution of 1-tert-butoxycarbonyl-1,2,3,6-tetrahydropyridine (18.9 g) in dichloromethane (400 ml) was added in turn sodium hydrogen carbonate (11.3 g) and m-chloroperoxybenzoic acid (23.4 g) with care at 0° C., and which was stirred for 2 hours. Insoluble material was removed by filtration, mother liquor was washed saturated sodium chloride in water (100 ml) and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was dissolved in n-hexane (300 ml) and insoluble material was removed by filtration. Mother liquor was concentrated in vacuo, the remainings were dissolved in ethyl acetate (300 ml) and washed in turn with saturated sodium hydrogen carbonate in water (100 ml×5) and saturated sodium chloride in water (100 ml×2), which was dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (350 ml) eluting in turn with 10%, 20% and 30% ethyl acetate in n-hexane. Fractions, containing desired product, were collected and concentrated in vacuo to give 1-tert-butoxycarbonyl-3,4-epoxypiperidine (13.7 g).

reactant | 1-tert-butoxycarbonyl-1,2,3,6-tetrahydropyridine | 18.9 g | C(C)(C)(C)OC(=O)N1CCC=CC1 | C10H17NO2
reactant | sodium hydrogen carbonate | 11.3 g | C(O)([O-])=O.[Na+]
reactant | m-chloroperoxybenzoic acid | 23.4 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | n-hexane | 300 ml | CCCCCC | C6H14
product | 1-tert-butoxycarbonyl-3,4-epoxypiperidine | 13.7 g | C(C)(C)(C)OC(=O)N1CC2C(CC1)O2 | C10H17NO3
